US04489093
Vinyl acetate and (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-hydroxy-1-propenyl]-cyclopropane carboxylic acid were reacted in the presence of mercuric acetate as a catalyst to obtain (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-ethenyloxy-1-propenyl]-cyclopropane carboxylic acid which was reacted with benzyl alcohol to obtain benzyl (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-ethenyloxy-1-propenyl]-cyclopropanecarboxylate with a specific rotation of [α]D20 =+26° (c=1.2% in chloroform).

reactant | Vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-hydroxy-1-propenyl]-cyclopropane carboxylic acid | CC1([C@@H]([C@@H]1\C=C(/C(O)=O)\F)C(=O)O)C | C9H11FO4
product | (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-ethenyloxy-1-propenyl]-cyclopropane carboxylic acid | CC1([C@@H]([C@@H]1\C=C(/C(OC=C)=O)\F)C(=O)O)C | C11H13FO4
